### PR TITLE
Implement analysis of constructors and improve deboxing of type vars

### PR DESCRIPTION
**Pull request by jakobbotsch**

### CODE REVIEW

File: extraction/examples/ErasureTests.v [hunk 1]
```diff
@@ -489,12 +468,6 @@ Example ManyParamsInd_test :
         "| MPIConstr □ □ □ □ □ A B" $>.
 Proof. reflexivity. Qed.
 
-Example ManyParamsInd_remove_log_params_test :
-  erase_remove_params_and_print_ind_prog ex11 =
-  Ok <$ "data ManyParamsInd A B";
-        "| MPIConstr □ □ □ □ □ A B" $>.
-Proof. reflexivity. Qed.
-
```
Comment (jakobbotsch) [inline extraction/examples/ErasureTests.v:497]: I moved this test and the one below into `MidlangExtractTests.v` since it is testing deboxing and not erasure.

**Review by annenkov — APPROVED** [review]

**Comment by jakobbotsch** [comment]
This also fixes the CounterRefinementTypes.v example (by adding deboxing of axioms).
